US06294558B1
4,4,4-Trifluoro-1-[4-(1,3-oxazol-4-yl)phenyl]-1,3-butanedione (step 3)
To a stirred solution of 1-[4-(1,3-oxazol-4-yl)phenyl]-1-ethanone (256 mg, 1.37 mmol), ethyl trifluoroacetate (214 mg, 1.51 mmol) in t-butylmethylether (22 ml) was added sodium methoxide (28 wt. % solution in methanol; 0.4 ml, 1.67 mmol) over 5 minutes, and the mixture was stirred for 20 hours. The mixture was made neutral by addition of 2N HCl, and the whole was extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was used for next reaction without further purification. (433 mg, 99% yield).

reactant | 1-[4-(1,3-oxazol-4-yl)phenyl]-1-ethanone | 1.37 mmol, 256 mg | O1C=NC(=C1)C1=CC=C(C=C1)C(C)=O | C11H9NO2
reactant | ethyl trifluoroacetate | 1.51 mmol, 214 mg | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | 1.67 mmol, 0.4 ml | C[O-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | t-butylmethylether | 22 ml | C(C)(C)(C)OC | C5H12O
product | 4,4,4-Trifluoro-1-[4-(1,3-oxazol-4-yl)phenyl]-1,3-butanedione | 99% yield | FC(C(CC(=O)C1=CC=C(C=C1)C=1N=COC1)=O)(F)F | C13H8F3NO3
